US08247429B2
N-[2-(2-methyl-6,7-dihydrocyclopenta[e]indazol-8(2H)-ylidene)ethyl]propanamide
2-(2-Methyl-6,7-dihydrocyclopenta[e]indazol-8(2H)-ylidene)ethanamine (100 mg, 0.469 mmol) was dissolved in tetrahydrofuran (4.7 mL), triethylamine (72.0 μL, 0.516 mmol) and propionic anhydride (66.2 μL, 0.516 mmol) were added under ice-cooling, and the mixture was stirred for 15 min. The reaction solution was diluted with saturated aqueous sodium hydrogen carbonate solution, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (methanol/ethyl acetate=0/100→5/95) to give the title compound (108 mg, yield 85%).

reactant | 2-(2-Methyl-6,7-dihydrocyclopenta[e]indazol-8(2H)-ylidene)ethanamine | 0.469 mmol, 100 mg | CN1N=C2C=CC3=C(C2=C1)C(CC3)=CCN | C13H15N3
reactant | triethylamine | 0.516 mmol, 72.0 μL | C(C)N(CC)CC | C6H15N
reactant | propionic anhydride | 0.516 mmol, 66.2 μL | C(CC)(=O)OC(CC)=O | C6H10O3
solvent | tetrahydrofuran | 4.7 mL | O1CCCC1 | C4H8O
solvent | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
product | N-[2-(2-methyl-6,7-dihydrocyclopenta[e]indazol-8(2H)-ylidene)ethyl]propanamide | 108 mg, yield 85% | CN1N=C2C=CC3=C(C2=C1)C(CC3)=CCNC(CC)=O | C16H19N3O
